US04772600
N-Methyl-N-phenyl-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (1.91 g, 0.015 mole) was added dropwise (slowly) to a stirred and chilled (5°-10° C.) solution of 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.5 g, 0.014 mole) and anhydrous dimethylformamide (50 ml). The reaction mixture was heated at 55°-60° C. for 4 hours, cooled, and added dropwise to a stirred and chilled (5°-10° C.) solution of N-methylaniline (1.60 g, 0.015 mole), triethylamine (1.52 g, 0.015 mole), and anhydrous dimethylformamide (50 ml). The reaction mixture was stirred at room temperature overnight and then poured into water (300 ml). The mixture was extracted with methylene chloride (3×50 ml). The combined organic extracts were washed with potassium bicarbonate solution (2×30 ml), water (30 ml), dried over sodium sulfate and concentrated in vacuo. Recrystallization twice from isopropyl ether-petroleum ether gave 1.5 g (24%) of off-white needles, mp 158°-159° C.

reactant | oxalyl chloride | 0.015 mole, 1.91 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.5 g | FC(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O)(F)F | C15H10F3N3O2
reactant | N-methylaniline | 0.015 mole, 1.60 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 0.015 mole, 1.52 g | C(C)N(CC)CC | C6H15N
solvent | water | 300 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-phenyl-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.5 g, 24% | CN(C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=CC=C2 | C22H17F3N4O
